US06884868B1
A solution of 4-bromophenol (3 g) and 1,4-dibromobutane (6.2 ml) in N,N-dimethylformamide (30 ml) was treated with potassium carbonate (2.89 g) at room temperature for 27 hours. The mixture was diluted with ethyl acetate and washed with brine. The organic layer was dried over magnesium sulfate, filtered, and evaporated. The residue was purified by silica gel chromatography (25:1 hexane-ethyl acetate elution) to give 1-bromo-4-(4-bromobutoxy)benzene (3.09 g).

reactant | 4-bromophenol | 3 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 1,4-dibromobutane | 6.2 ml | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 2.89 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-bromo-4-(4-bromobutoxy)benzene | 3.09 g | BrC1=CC=C(C=C1)OCCCCBr | C10H12Br2O
